US08026257B2
1-(tert-Butoxycarbonyl)-4-phenylpiperidine-4-carboxylic acid.
To a suspension of 4-phenyl-4-piperidinecarboxylic acid p-methylbenzenesulfonate (100 g, 265 mmol) and triethylamine (111 mL, 795 mmol) in tetrahydrofuran (1200 mL) was added di-tert-butyl dicarbonate (63.6 g, 291 mmol). The reaction was slowly heated to a gentle reflux and held there for 1 h. After one hour, gas evolution had ended and the reaction had become a clear solution. The reaction was cooled to room temperature and concentrated to remove most of the tetrahydrofuran. The residue was dissolved in water/diethyl ether and the aqueous made very basic by the addition of 10 M sodium hydroxide (50 mL). The aqueous was washed with diethyl ether (2×) which was discarded. The aqueous was transferred to an erlenmeyer flask and made acidic (ca. pH 5) by addition of acetic acid to give a white precipitate. The precipitate was collected by filtration and air dried overnight to give a white powder. The last traces of water were removed under high vacuum to give 78.9 g (98%). 1H-NMR (CD3OD, 500 MHz) δ 10.5 (bs, 1H), 7.39 (m, 2H), 7.33 (m, 2H), 7.26 (m, 1H), 3.90 (bs, 2H), 3.08, (bs, 2H), 2.48 (d, J=13.4 Hz, 2H), 1.85 (m, 2H), 1.44 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 179.6, 155.0, 141.6, 128.8, 127.6, 126.1, 79.9, 49.3, 41.7, 33.4, 28.5. Mass spec.: 328.12 (MNa)+.

reactant | 4-phenyl-4-piperidinecarboxylic acid p-methylbenzenesulfonate | 265 mmol, 100 g | CC1=CC=C(C=C1)S(=O)(=O)O.C1(=CC=CC=C1)C1(CCNCC1)C(=O)O
reactant | triethylamine | 795 mmol, 111 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 291 mmol, 63.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 1200 mL | O1CCCC1 | C4H8O
product | 1-(tert-Butoxycarbonyl)-4-phenylpiperidine-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C17H23NO4
